US07300951B2
A slurry of copper bromide (I)-dimethyl sulfide complex (1.57 g, 7.66 mmol) in THF (20 mL) and dimethyl sulfide (10 mL) as co-solvent was cooled to −40° C. and ethyl magnesium bromide (5 mL, 15.3 mmol) was added dropwise for 10 min. The slurry was stirred for 40 min while warming to −15° C. The greenish slurry was cooled to −40° C. and (4R)-4-benzyl-3-[(2E)-5,5,5-trifluoropent-2-enoyl] 1,3-oxazolidin-2-one (2 g, 6.38 mmol) was added dropwise as a solution in THF (5 mL) at −40° C. The reaction was allowed to warm to 250C overnight (20 h). The black slurry was cooled down to −78° C. and N-bromosuccinimide (2.3 g 12.76 mmol) was added portionwise. It was allowed to warm to −40° C. and stirred for an additional 30 min. After this period, the black slurry became greenish to blue. A precipitate formed and was filtered off. The mother liquor was diluted with EtOAc (150 mL) and the organic layer was washed with saturated NaCl (50 mL). The organic layer was dried over MgSO4, filtered and concentrated to afford (4R)-4-benzyl-3-[(2R, 3S)-2-bromo-3-ethyl-5,5,5-trifluoropentanoyl]-1,3-oxazolidin-2-one as a green semi-solid (1.6 g, 59.5%). Mass Spectrum (−ESI): 421, 420 (M−H)−.

reactant | ethyl magnesium bromide | 15.3 mmol, 5 mL | C(C)[Mg]Br
reactant | (4R)-4-benzyl-3-[(2E)-5,5,5-trifluoropent-2-enoyl] 1,3-oxazolidin-2-one | 6.38 mmol, 2 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(\C=C\CC(F)(F)F)=O | C15H14F3NO3
reactant | N-bromosuccinimide | 12.76 mmol, 2.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | dimethyl sulfide | 10 mL | CSC | C2H6S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4R)-4-benzyl-3-[(2R, 3S)-2-bromo-3-ethyl-5,5,5-trifluoropentanoyl]-1,3-oxazolidin-2-one | 1.6 g, 59.5% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@H](CC(F)(F)F)CC)Br)=O | C17H19BrF3NO3
